US07973051B2
2-{[3-({[(5-Bromo-1,3-thiazol-2-yl)carbamoyl]amino}sulfonyl)-1-methyl-1H-indol-7-yl]oxy}acetamide
A solution of ethyl {[3-({[(5-bromo-1,3-thiazol-2-yl)carbamoyl]amino}sulfonyl)-1-methyl-1H-indol-7-yl]oxy}acetate (0.050 g, 0.09 mmol) in 7N ammonia/methanol, (5 mL) was heated at 40° C. for 5 h. The reaction mixture was concentrated to dryness and dried under high vacuum to obtain the title compound (0.040 g) as a grey amorphous solid. MS (ISN): m/e 486.4, 488.3 (M−H)−

reactant | ethyl {[3-({[(5-bromo-1,3-thiazol-2-yl)carbamoyl]amino}sulfonyl)-1-methyl-1H-indol-7-yl]oxy}acetate | 0.09 mmol, 0.050 g | BrC1=CN=C(S1)NC(=O)NS(=O)(=O)C1=CN(C2=C(C=CC=C12)OCC(=O)OCC)C | C17H17BrN4O6S2
reactant | ammonia methanol | 7N, 5 mL | N.CO
product | 2-{[3-({[(5-Bromo-1,3-thiazol-2-yl)carbamoyl]amino}sulfonyl)-1-methyl-1H-indol-7-yl]oxy}acetamide | 0.040 g | BrC1=CN=C(S1)NC(=O)NS(=O)(=O)C1=CN(C2=C(C=CC=C12)OCC(=O)N)C | C15H14BrN5O5S2
